US07173031B2
C) 4-(2-Fluoro-4-nitrophenoxy)-5-methyl-6-(2-(4-methylpiperazin-1-yl)-ethoxy)pyrrolo[2,1-f][1,2,4]triazine
To a homogeneous mixture of 4-(2-fluoro-4-nitrophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]-triazin-6-ol (100 mg, 0.33 mmol) and triphenylphosphine (129 mg, 0.49 mmol) in 4 mL of 1:1 anhydrous dichlormethane/anhydrous tetrahydrofuran, cooled to 0° C. under a nitrogen atmosphere, was added dropwise a mixture of 2-(4-methylpiperazin-1-yl)ethanol (71 mg, 0.49 mmol) and diisopropylazodicarboxylate (0.10 μL, 0.49 mmol) in 2 mL of 1:1 anhydrous dichlormethane/anhydrous tetrahydrofuran. The mixture was stirred and allowed to warm to room temperature. The reaction was stirred for twelve hours before being concentrated in vacuo. The residue was purified by preparative HPLC (YMC S10 ODS, 30×500 mm, 30 minute gradient from 50% to 90% aqueous methanol with 0.1% TFA). The appropriate fractions were combined, neutralized with saturated aqueous sodium bicarbonate, and then concentrated in vacuo to remove methanol. The mixture was extracted with chloroform (3×10 mL). The combined organic layers were washed once each with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to yield the title compound (34 mg, 24%) as a yellow solid. 1H NMR (CDCl3) δ 8.20–8.10 (m, 2H), 7.82 (s, 1H), 7.58–7.52 (m, 1H), 7.49 (s, 1H), 4.16 (t, 2H, J=5.7 Hz), 2.87 (t, 2H, J=5.7 Hz), 2.80–2.40 (m, 8H), 2.45 (s, 3H), 2.31 (s, 3H); MS(ESI+) m/z 431.3 (M+H)+.

reactant | 4-(2-fluoro-4-nitrophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]-triazin-6-ol | 0.33 mmol, 100 mg | FC1=C(OC2=NC=NN3C2=C(C(=C3)O)C)C=CC(=C1)[N+](=O)[O-] | C13H9FN4O4
reactant | triphenylphosphine | 0.49 mmol, 129 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(4-methylpiperazin-1-yl)ethanol | 0.49 mmol, 71 mg | CN1CCN(CC1)CCO | C7H16N2O
reactant | diisopropylazodicarboxylate | 0.49 mmol, 0.10 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | dichlormethane | 4 mL | ClCCl | CH2Cl2
solvent | dichlormethane | 2 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(2-Fluoro-4-nitrophenoxy)-5-methyl-6-(2-(4-methylpiperazin-1-yl)-ethoxy)pyrrolo[2,1-f][1,2,4]triazine | 34 mg, 24% | FC1=C(OC2=NC=NN3C2=C(C(=C3)OCCN3CCN(CC3)C)C)C=CC(=C1)[N+](=O)[O-] | C20H23FN6O4
